Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transferred from ___ for Afib w
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HTN presents to ___ from ___ for new onset atrial 
fibrillation and elevated troponin. The patient states that she 
started having uncontrollable nausea, vomiting, and diarrhea on 
___. She was also having intermittent, crampy 
epigastric tenderness. She continued to have vomiting on 
___ and ___, and went to the ___. At ___ her 
HR was in 160s, she had a slightly elevated bilirubin but 
unremarkable LFTs, negative abdominal US, troponin 0.1. She was 
given full dose aspirin, PPI, Zofran, and started on Cardizem 
drip at 5mg/hr. Upon arrival patient states she is having no 
chest pain, palpitations, or SOB. Nausea is mild. Her dilt drip 
was ___ and she was started on PO dilt and heparin ggt per 
cardiology recommendations when she arrived to ___ ___. 

Notably, she also reports having an episode of "flutter" in her 
chest this AM but has had palpitations before. She states that 
the palpitations have possibly been on and off for over a year 
but in the last 6 weeks or so she noticed an increase in these 
sensations. She states that she would usually notice them at 
night before going to bed, attribute them to a stressful day and 
when she woke up in the morning they were gone. The episodes are 
associated with mild chest tightness and she thinks maybe SOB 
but is not sure if she is just paying more attention to it now.

 
Past Medical History:
HTN
HLD
 
Social History:
___
Family History:
Father- died of MI at ___, HTN
Mother- peripheral vascular disease, HTN and DM
Brother- DM
 
Physical ___:
ADMISSION EXAM:
VS: 97.7PO, 143/97, 77, 18, 97% Ra 
GENERAL: anxious and tearful but otherwise pleasant woman in 
NAD.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink 
conjunctiva,MMM
NECK: supple, no LAD, no JVD  
HEART: irregular rhythm with normal rate, normal S1/S2, no 
murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, unable to appreciate hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE EXAM:
VS: T 98.3 BP 136/67 HR 64 RR 18 O2 97% RA
GENERAL: Wonderfully pleasant, well-kept woman, sitting up in 
bed in NAD
HEENT: NC/AT, EOMI, MMM
NECK: No JVD
HEART: Regular rate, irregularly irregular rhythm, no m/r/g 
appreciated
LUNGS: CTAB, breathing comfortably on RA without use of 
accessory muscles
ABDOMEN: Soft, non-tender to palpation, active bowel sounds, no 
organomegaly
EXTREMITIES: No clubbing or cyanosis
SKIN: Warm and well-perfused
NEURO: Moving all four extremities with purpose, alert and
oriented x3 

 
Pertinent Results:
ADMISSION LABS:
___ 11:04PM   cTropnT-0.10*
___ 07:01PM   ___ PTT-27.2 ___
___ 05:50PM   %HbA1c-5.3 eAG-105
___ 05:15PM   GLUCOSE-110* UREA N-18 CREAT-0.7 SODIUM-137 
POTASSIUM-3.3 CHLORIDE-99 TOTAL CO2-23 ANION GAP-15
___ 05:15PM   estGFR-Using this
___ 05:15PM   ALT(SGPT)-21 AST(SGOT)-30 CK(CPK)-109 ALK 
PHOS-56 TOT BILI-1.3
___ 05:15PM   CK-MB-2 cTropnT-0.08*
___ 05:15PM   CHOLEST-191
___ 05:15PM   TRIGLYCER-91 HDL CHOL-60 CHOL/HDL-3.2 
LDL(CALC)-113
___ 05:15PM   TSH-2.5
___ 05:15PM   NEUTS-57.7 ___ MONOS-10.7 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-5.07 AbsLymp-2.73 AbsMono-0.94* 
AbsEos-0.01* AbsBaso-0.01
___ 05:15PM   PLT COUNT-215

DISCHARGE LABS:
___ 06:40AM BLOOD WBC-7.3 RBC-4.07 Hgb-12.8 Hct-37.8 MCV-93 
MCH-31.4 MCHC-33.9 RDW-12.2 RDWSD-41.9 Plt ___
___ 10:30AM BLOOD PTT-76.2*
___ 06:40AM BLOOD Glucose-92 UreaN-14 Creat-0.7 Na-141 
K-3.5 Cl-101 HCO3-26 AnGap-14
___ 06:40AM BLOOD CK-MB-2 cTropnT-0.12*
___ 06:40AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.2

MICROBIOLOGY:
- None

DIAGNOSTICS:
___ ECG: Atrial fibrillation, no ST changes
___ ECG: Atrial fibrillation, no ST changes, unchanged from 
prior
___ ECG: Atrial fibrillation, no ST changes, unchanged from 
prior
 
Brief Hospital Course:
Ms. ___ is a ___ with PMH of HTN presenting from ___ 
with Afib.

ACUTE ISSUES:
# Atrial fibrillation 
Unclear whether this is new-onset, as patient endorses prior 
history of palpitations. This episode of Afib may have been 
triggered by a possible viral gastroenteritis that seems to have 
now resolved. CHADS2-VASc 2 (based on gender and HTN), so 
anticoagulation should be considered. Patient was initially 
started on heparin gtt and diltiazem gtt. Diltiazem gtt was 
discontinued and she was started on PO diltiazem. Given her 
normal kidney function and lack of contraindications to 
anticoagulation, she was transitioned to Rivaraxoban. Regarding 
cardioversion, it is unclear whether this is truly new-onset 
Afib, but the patient remains hemodynamically stable and 
asymptomatic. There is no need for immediate cardioversion at 
this time, but this should be discussed during OP follow-up with 
cardiology. A TTE was done in the hospital which revealed EF 60% 
with considerable beat-to-beat variation and normal LV systolic 
function

# Nausea/vomiting/diarrhea
Resolved without intervention. Likely ___ mild viral 
gastroenteritis vs. food-borne toxin.

CHRONIC ISSUES:
# Hypertension
BP well controlled during admission. Continued home lisinopril. 
Home metoprolol was held and diltiazem was started (per above). 

# Hyperlipidemia
Continued home statin 

TRANSITIONAL ISSUES:
[ ] New medications: Rivaroxaban 20mg PO daily, Diltiazem LA 
120mg PO daily
[ ] Held medications: Metoprolol succinate 100mg PO daily 
[ ] Follow-up with cardiology regarding possible cardioversion. 
Should be anticoagulated for 3 weeks prior to cardioversion
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO BID 
5. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl 120 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  LORazepam 0.5 mg PO Q8H:PRN anxiety  
RX *lorazepam 0.5 mg 1 tablet(s) by mouth qpm:PRN Disp #*3 
Tablet Refills:*0 
3.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily with 
dinner Disp #*30 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  Fish Oil (Omega 3) 1000 mg PO BID  
7.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Atrial fibrillation

SECONDARY DIAGNOSIS:
- Hypertension
- Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were transferred to us from ___ because you were 
found to have an abnormal heart rhythm, called atrial 
fibrillation.

WHAT WAS DONE FOR YOU WHILE YOU WERE IN THE HOSPITAL?
- We did an ECG which showed that you continued to be in atrial 
fibrillation.
- We started you on a medicine called diltiazem to help control 
your heart rate.
- We started you on a blood thinner to help reduced your risk of 
stroke from the abnormal heart rhythm. 
- We did an ultrasound of your heart to make sure it was pumping 
normally and to make sure a clot had not developed. 

WHAT SHOULD YOU DO WHEN YOU LEAVE?
- You should continue taking your new blood thinner, 
Rivaroxaban, each day with your dinner.
- You should follow-up with a cardiologist to discuss whether 
cardioversion should be considered in the future. 
- You should follow-up with your primary care doctor. 

It was a pleasure meeting you and taking care of you!

Sincerely,
Your ___ Team
 
Followup Instructions:
___